US08476434B2
To a solution of 4-methyl-N3-(3-pyrimidin-4-yl-pyridin-2-yl)-benzene-1,3-diamine (40 mg, 0.14 mmol) in CH2Cl2 (2.5 mL) was added pyridine (0.012 mL, 0.14 mmol) and 4-chlorobenzenesulfonyl chloride (30 mg, 0.14 mmol). The mixture was stirred overnight at RT, concentrated and purified by flash chromatography (0→50% EtOAc/n-Hexanes) to yield 4-chloro-N-(4-methyl-3-((3-(4-pyrimidinyl)-2-pyridinyl)amino)phenyl)benzenesulfonamide. MS m/z=452 [M+1]+. Calc'd for C22H18ClN5O2S: 451.94.

reactant | 4-methyl-N3-(3-pyrimidin-4-yl-pyridin-2-yl)-benzene-1,3-diamine | 0.14 mmol, 40 mg | CC1=C(C=C(C=C1)N)NC1=NC=CC=C1C1=NC=NC=C1 | C16H15N5
reactant | pyridine | 0.14 mmol, 0.012 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorobenzenesulfonyl chloride | 0.14 mmol, 30 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-(4-methyl-3-((3-(4-pyrimidinyl)-2-pyridinyl)amino)phenyl)benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=C(C=C1)C)NC1=NC=CC=C1C1=NC=NC=C1 | C22H18ClN5O2S
